US04416884
19.1 g of 8-(p-toluenesulfonyl)-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid and 12.9 g of piperazine were added to 200 ml of anhydrous dimethyl sulfoxide and the mixture was heated in an autoclave under flow of nitrogen at 10 atm. at a temperature of 150° to 160° C. for 18 hours while stirring. After completion of the reaction, the solvent and excess piperazine were removed under reduced pressure and a mixture of methanol and ethanol was added to the residue. The preicpitates formed were separated by filtration and washed with diethyl ether. The crystals thus-obtained were suspended in a mixture of 200 ml of water and 40 ml of a 10% aqueous hydrochloric acid solution and insoluble materials were removed by filtration. The filtrate was rendered neutral with saturated aqueous solution of sodium bicarbonate and purified through column chromatography using Amberlite LH-20 (a trade name for a product of Tokyo Organic Chemical Industries Ltd.) (eluent: water, ethanol). Recrystallization of the eluate from dimethylformamide gave 2.7 g of 8-(1-piperazinyl)-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid as white needles having a melting point of 267° to 268° C.

reactant | 8-(p-toluenesulfonyl)-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 19.1 g | C1(=CC=C(C=C1)S(=O)(=O)C1=CC=C2C(C(=CN3CCCC1=C23)C(=O)O)=O)C | C20H17NO5S
reactant | piperazine | 12.9 g | N1CCNCC1 | C4H10N2
reactant | dimethyl sulfoxide | 200 ml | CS(=O)C | C2H6OS
reactant | hydrochloric acid | Cl | ClH
solvent | water | 200 ml | O | H2O
product | 8-(1-piperazinyl)-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 2.7 g | N1(CCNCC1)C1=CC=C2C(C(=CN3CCCC1=C23)C(=O)O)=O | C17H19N3O3
